US06103907
(a) Ethyl 3-(4-benzyloxyphenyl)-2-(phenylamino)propionate
A mixture of 4.00 g of ethyl 3-(4-benzyloxyphenyl)-2-methanesulfonyloxypropionate and 5 ml of aniline was stirred at 110° C. for 24 hours. The reaction mixture was purified by silica gel column chromatography (ethyl acetate:hexane=1:4) to obtain 3.94 g of the desired compound as a syrup.

reactant | ethyl 3-(4-benzyloxyphenyl)-2-methanesulfonyloxypropionate | 4.00 g | C(C1=CC=CC=C1)OC1=CC=C(C=C1)CC(C(=O)OCC)OS(=O)(=O)C | C19H22O6S
reactant | aniline | 5 ml | NC1=CC=CC=C1 | C6H7N
product | Ethyl 3-(4-benzyloxyphenyl)-2-(phenylamino)propionate | 3.94 g | C(C1=CC=CC=C1)OC1=CC=C(C=C1)CC(C(=O)OCC)NC1=CC=CC=C1 | C24H25NO3
